Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abnormal labs
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
 ___ w/ little adult routine care before ___ and with PMHx 
significant for COPD, EtOH abuse (states last drink 2 weeks 
ago), CKD III, PVD, presenting from routine PCP visit with 
abnormal labs sig for Cr 2.4 (baseline 1.2) and lipase of 435 
(was 41 on ___. He feels well, only with some chills. No 
cough, ST, rhinorrhea, abd pain, naus, vom, diarrhea, dysuria, 
or frequency.  
 Patient has recently lost weight, thought to be attributed to 
malnutrition in the setting of alcohol abuse as pan scans have 
been negative for intraabdominal malignancy. Other than slight 
chills, he feels in his usual state of health.  
 
 
Past Medical History:
 - COPD, with severe emphysema on imaging  
 - Peripheral vascular disease, with ectactic infrarenal aorta 
and  
 aneurysm of L common iliac artery; SMA with aneurysmal dilation 
 
 and ?prior dissection.  
 - Chronic kidney disease  
 - LUL lung nodule  
 - Tremor  
 - EtOH abuse  
 - Smoking history: current, ___ pack/day, overall history of  
 50-100 pack years  
 
Social History:
___
Family History:
 Patient denies pulmonary disease in family; per OMR note  
 brother died of lung cancer.  
 
Physical Exam:
ADMISSION:
Vital Signs: 98.1 PO 113 / 78 L Lying 93 20 97 ra  
 GEN: Cachectic appearing, no respiratory distress at rest, 
HEENT: PERRL, anicteric, MMM.  
 Neck: supple, JVD not elevated when upright.  
 Chest: Diminished lung sounds especially on inspiration, but 
CTA  
 bilaterally.  
 Heart: regular S1 S2, no murmurs appreciated.  
 Abdomen: Scaphoid, soft, nontender to gentle and deep 
palpation, nondistended. +BS. No rebound or guarding  
 Extremities: warm, no significant edema, no clear clubbing.  
 Neuro/psych grossly intact. 

DISCHARGE:
Vital Signs: 
98.4 PO 106 / 71 85 20 96 RA  
 GEN: Cachectic appearing, no respiratory distress at rest, 
HEENT: PERRL, anicteric, MMM.  
 Neck: supple, JVD not elevated when upright.  
 Chest: Diminished lung sounds especially on inspiration, but 
CTA  
 bilaterally.  
 Heart: regular S1 S2, no murmurs appreciated.  
 Abdomen: Scaphoid, soft, nontender to gentle and deep 
palpation, nondistended. +BS. No rebound or guarding  
 Extremities: warm, no significant edema, no clear clubbing.  
 Neuro/psych grossly intact. 
 
Pertinent Results:
ADMISSION:
___ 09:04PM BLOOD WBC-7.0 RBC-3.56* Hgb-12.0* Hct-34.5* 
MCV-97 MCH-33.7* MCHC-34.8 RDW-14.6 RDWSD-52.4* Plt ___
___ 09:04PM BLOOD Neuts-60.0 ___ Monos-14.6* 
Eos-0.7* Baso-0.4 Im ___ AbsNeut-4.19 AbsLymp-1.68 
AbsMono-1.02* AbsEos-0.05 AbsBaso-0.03
___ 09:04PM BLOOD Glucose-127* UreaN-27* Creat-1.9* Na-138 
K-4.0 Cl-99 HCO3-23 AnGap-20
___ 09:04PM BLOOD ALT-9 AST-23 AlkPhos-49 TotBili-0.7
___ 09:04PM BLOOD Lipase-203*
___ 09:04PM BLOOD Albumin-3.4*
___ 09:13PM BLOOD Lactate-2.0

DISCHARGE:
___ 07:05AM BLOOD WBC-6.0 RBC-2.98* Hgb-10.1* Hct-28.6* 
MCV-96 MCH-33.9* MCHC-35.3 RDW-14.6 RDWSD-51.1* Plt ___
___ 07:05AM BLOOD Glucose-106* UreaN-22* Creat-1.7* Na-145 
K-3.8 Cl-108 HCO3-23 AnGap-18
___ 07:05AM BLOOD ALT-7 AST-15 AlkPhos-46 TotBili-0.5
___ 07:05AM BLOOD Lipase-182*
___ 07:05AM BLOOD Calcium-8.0* Phos-2.8 Mg-1.2*

MICRO:
___ 12:01AM URINE Color-Yellow Appear-Clear Sp ___
___ 12:01AM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 12:01AM URINE RBC-1 WBC-5 Bacteri-NONE Yeast-NONE Epi-1
___ 12:01AM URINE Mucous-RARE

IMAGING:
___ RUQUS IMPRESSION: 
    
1.  Echogenic liver consistent with steatosis. Other forms of 
liver disease and more advanced liver disease including 
steatohepatitis or significant hepatic fibrosis/cirrhosis cannot 
be excluded on this study. 
2. No suspicious focal liver lesions detected. 
3. The gallbladder is collapsed without evidence of stones. 
4. A 3.4 cm cystic lesion is seen along the spleen. 

 
Brief Hospital Course:
___ w/ little adult routine care before ___ and with PMHx 
significant for COPD, EtOH abuse (states last drink 2 weeks 
ago), CKD III, PVD, presenting from routine PCP visit with 
abnormal labs sig for Cr 2.4 (baseline 1.2) and lipase of 435 
(was 41 on ___. The patient had recent history of abdominal 
pain and resultant decreased oral intake over the week prior to 
admission per collateral from his daughter. ___ were stable 
through ED and hospital course with downtrending lipase and LFTs 
on repeated check in ED and on medical floor. The patient 
remained asymptomatic through hospital course and expressed 
hunger. He tolerated oral intake well and was discharged to 
outpatient follow-up with primary care provider.

# Elevated lipase: Patient has asymptomatic elevated lipase and 
nontender abdomen, even to deep palpation. Does not meet 
criteria for clinical pancreatitis during admission, but 
possible that patient had clinical pancreatitis that may have 
resolved. Other explanations include renal impairment with less 
excretion of lipase, neoplastic causes, or possible cystic 
lesion causing obstructive process. Also, studies have shown 
that patients with alcohol abuse can have elevated lipase levels 
of 3 or more x the ULN and be asymptomatic. Given IVF and NPO 
overnight and advanced on HD#1.  

#Acute on chronic CKD: Presented with resolving ___ from 2.4 as 
outpatient to 1.9 on admission and 1.7 on day of discharge. 
Likely secondary to dehydration from poor nutrition in setting 
of alcohol abuse, received IVF overnight.

#COPD/Emphysema: Pt had worsening PFTs at last pulmonary visit, 
and Advair was added to his regimen. Currently does not complain 
of SOB.  
 - Continued tiotroprium 18 mcg daily (Spiriva)  
 - Continued Advair 100/50 1 puff BID  
 - Cont Albuterol PRN for SOB  
 
#Weight loss: Unclear etiology. Low suspicion of pulmonary 
cachexia as overall work of breathing appears mild even though 
by spirometry, COPD severe. ___ be malnutrition in setting of 
alcohol abuse. Patient does have risk factors for malignancy 
including smoking (has LUL nodule being followed) and alcohol 
abuse. Elevated lipase could represent obstruction from 
pancreatic neoplasm.  
 - Consider further abdominal imaging ___ resolves to 
investigate for reason for lipase elevation as outpatient

#Alcohol abuse: Last reported drink reportedly was 2 weeks 
prior. At previous hospitalization and with PCP has refused to 
engage in EtOH cessation discussions. Left AMA at previous 
hospitalization before SW could speak with him. Counseled 
patient on alcohol cessation and risk for further injury and 
death if continued.
 - continued MVI, folate, thiamine  
 - continued discussion regarding cessation and resources as 
outpatient

TRANSITIONAL ISSUES:
-Counseled on alcohol cessation, please continue discussion and 
resources provided as an outpatient
-Creatinine 1.7 on day of discharge, please repeat as outpatient
-Please repeat LFTs as outpatient 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Tiotropium Bromide 1 CAP IH DAILY 
2. Multivitamins 1 TAB PO DAILY 
3. Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID 
4. Omeprazole 40 mg PO DAILY 
5. albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN 
6. Thiamine 100 mg PO DAILY 
7. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN SOB 

 
Discharge Medications:
1.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN SOB  
3.  albuterol sulfate 90 mcg inhalation Q4H:PRN SOB  
4.  Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID  
5.  Multivitamins 1 TAB PO DAILY 
RX *multivitamin  1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
6.  Omeprazole 40 mg PO DAILY  
7.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*0 
8.  Tiotropium Bromide 1 CAP IH DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: ___, elevated lipase
Secondary: alcohol abuse

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted with concern for your recent abnormal 
laboratory values in the setting of your abdominal pain. Your 
lab tests improved during admission with imaging that was 
reassuring. You were observed overnight and were able to eat 
without issue. It is likely your drinking resulted in the 
elevated liver tests and may have contributed to your decreased 
ability to eat. It is important for you to stop drinking alcohol 
to prevent further damage to this area. Please follow-up with 
your primary care provider ___ ___ weeks to be evaluated and have 
labwork performed.

Wishing you the best of health,
Your ___ team
 
Followup Instructions:
___